US07619092B2
In 40 ml of tetrahydrofuran was dissolved 5.46 g of 4-methoxypyridine, and added dropwise thereto was 55 ml of a 1M phenylmagnesiumbromide-tetrahydrofuran solution under nitrogen atmosphere at −60° C. of below. Subsequently, added dropwise thereto was a solution of 10.24 g of benzyl chloroformate in 50 ml of tetrahydrofuran, and the mixture was stirred for 3 hours. The temperature of the mixture was raised to room temperature, and 120 ml of a 5% aqueous citric acid solution was added thereto. The mixture was extracted with ethyl acetate and washed with saturated brine. The organic layer was dried and concentrated. To the residue was added diisopropyl ether and the precipitates were collected by filtration, to give 8.51 g of 1-benzyloxycarbonyl-4-oxo-2-phenyl-3,4-dihydro-2H-pyridine.

reactant | 4-methoxypyridine | 5.46 g | COC1=CC=NC=C1 | C6H7NO
reactant | phenylmagnesiumbromide tetrahydrofuran | 1M | C1(=CC=CC=C1)[Mg]Br.O1CCCC1
reactant | benzyl chloroformate | 10.24 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-4-oxo-2-phenyl-3,4-dihydro-2H-pyridine | 8.51 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(C=C1)=O)C1=CC=CC=C1 | C19H17NO3
